2138-09-12 08:42:00 Physician Resident Progress Note
Chief Complaint: subcutaneous emphysema s/p traechocutaneous fistula
   takedown.
   24 Hour Events:
   Acute desat during sleep, O2 in low 70s, unable to improve on
   non-invasive ventilation.  Code Blue called for intubation,  anesthesia
   had difficulty passing the vocal cords, but eventually successfully
   intubated with a 7.  Under sedation with fentanyl and midazolam, her
   SBP was in the 60s and she was given a neo bolus.  She was tried on
   dobutamine because she did not have peripheral access, but she became
   tachycardic.  Her SBP came up to 110s and the neo was weaned down to
   8.  We placed a central line.  The patient woke up without neuro
   deficit..
   Seen by ENT.
 INVASIVE VENTILATION - START [**2138-9-12**] 04:00 AM
 BRONCHOSCOPY - At [**2138-9-12**] 04:15 AM
 MULTI LUMEN - START [**2138-9-12**] 06:30 AM
   Allergies:
   Heparin Agents
   Thrombocytopenia
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-12**] 08:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.8
C (96.4
   HR: 80 (80 - 134) bpm
   BP: 130/76(89) {66/35(42) - 191/109(131)} mmHg
   RR: 19 (12 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     20 mL
                                                                  3,100 mL
   PO:
             TF:
   IVF:
                                                                     20 mL
                                                                  3,100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,170 mL
   Urine:
   1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     20 mL
                                                                  1,930 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 540 (360 - 540) mL
   Vt (Spontaneous): 389 (389 - 389) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 22 cmH2O
   SpO2: 97%
   ABG: ///26/
   Ve: 8.5 L/min
   Physical Examination
   GEN: Intubated, awake, alert, responding appropriately
   CV: RRR,
   Lungs: Crackles Bilateral throughout lung fields.  Suncutaneous air
   w/crepitus over the chest and shoulders and neck, subQ air decreased in
   the left face, none in the right face.
   Neuro: No focal deficits, moves all 4 extremities.
   Ext: Pedal Pulses 1+.
   Labs / Radiology
   282 K/uL
   12.9 g/dL
   130 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   28 mg/dL
   102 mEq/L
   141 mEq/L
   38.5 %
   13.2 K/uL
        [image002.jpg]
                             [**2138-9-11**]  07:22 PM
                             [**2138-9-12**]  08:10 AM
   WBC
   9.9
   13.2
   Hct
   38.8
   38.5
   Plt
   232
   282
   Cr
   1.0
   Glucose
   130
   Other labs: PT / PTT / INR:13.2/30.2/1.1, Differential-Neuts:85.5 %,
   Lymph:9.2 %, Mono:2.9 %, Eos:1.2 %, Ca++:10.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:4.5 mg/dL
   Assessment and Plan
   67 y/o F with CAD, COPD and respiratory failure s/p trach wean with
   persistent tracheocutaneous air leak who presented for elective
   takedown of fistula, PACU course complicated by diffuse neck/fall
   swelling [**2-22**] subcutaneous emphysema, admitted to [**Hospital Unit Name 44**] for airway
   monitoring, now with acute respiratory failure.
   .
   #Respiratory Failure:  Unclear etiology, given her history of
   OSA/tracheobroncial malacia it is most likely that she had acute
   # Neck swelling s/p fistula takedown: Pt has diffuse facial, neck &
   chest wall swelling due to air leak around tracheal opening and
   tracking subcutaneous emphysema.  Per ENT, pain with swallowing more
   likely due to soft tissue manipulation in OR vs possible air leak
   compressing esophageal structures.  Pt admitted to [**Hospital Unit Name 44**] for airway
   monitoring, currently sating well on facemask 50%. Will plan for ETT
   intubation if develops compromised airway.
   - continue supplemental facemask oxygen to maintain sats in low 90%
   - monitor for stridor/symptoms of airway obstruction
   - okay for intubation if airway compromised
   - avoid BIAP/CPAP overnight given subcutaneous air leak
   - NPO except essential meds this evening
   - Codeine 15mg q4hr to prevent cough
   - f/u ENT recs
   - Vicoden & Morphine prn pain
   - holding on ASA until seen in f/u by ENT (approx 1wk)
   .
   # CAD/CHF: Pt with long standing CAD s/p CABG/PCI in [**2133**], EKG
   suggestive of old inferior MI and ECHO from [**5-28**] with EF of 50% and
   inferolateral hypokinesis.  No evidence of volume overload on exam and
   pt currently denying any chest pain/SOB/jaw pain. Pt is mildly
   tachycardic in 100s and hypertensive, likely secondary to pain and
   anxiety.
   - will f/u EKG now given pt is mildly tachycardic
   - continue Metoprolol 12.5mg [**Hospital1 **]
   - holding ASA per ENT
   - restart Lisinopril 5mg & lasix 40mg daily in am
   .
   # COPD/Pulm: Pt carries a diagnosis of COPD but uses only albuterol prn
   and no prior PFTs in OMR.  She has only been using 2-3L home oxygen
   since complicated post op course with resp failure.  No audible wheezes
   on exam but diffuse upper airway congestion.  CXR showed diffuse
   reticular opacities possibly due to diffuse subcutaneous emphysema,
   infiltrates much less likely given lack of fever or cough.  Will
   monitor symptoms overnight & CIS.
   - continue supplemental oxygen to maintain sats
   - Albuterol prn
   - monitor symptoms overnight, CIS
   - f/[**Location 1698**] CXR read
   .
   # Upper airway obstruction: Pt with history of subglottic stenosis s/p
   laser resection in [**3-29**], also carries diagnosis of tracheomalacia.  Per
   ENT, stenosis was mild and successfully resected in [**3-29**]
   - apparently safe for ET inbution if necessary
   - monitor sats
   .
   # OSA: Per ENT/patient, will hold on CPAP/BIPAP given ongoing tracheal
   leak with subcutaneous air tracking through chest wall/face/neck
   - supplemental oxygen only
   .
   # Anxiety/Bipolar disorder: Pt anxious due to post-op facial
   swelling/pain with swallowing
   - continue Quetiapine 25mg TID with 100mg qhs
   - continue Zoloft 100mg in am
   - Ativan 0.5mg IV TID prn (hold for sedation)
   .
   # FEN: NPO for now, will give gentle IVF overnight
   - f/u lytes and replete prn
   .
   # PPx: Pneumoboots (no heparin given HIT history), IV PPI while NPO
   - aggressive bowel regimen
   .
   # Code:  FULL confirmed with patient
   .
   # Dispo:  ICU for monitoring overnight
   .
   # Comm: with patient and husband [**Name (NI) 2022**] [**Name (NI) **] [**Telephone/Fax (1) 4588**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2138-9-12**] 04:00 AM
   20 Gauge - [**2138-9-12**] 04:03 AM
   Multi Lumen - [**2138-9-12**] 06:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-09-13 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Off neosyneph since yesterday at 1100 am.
   CE are flat
 MI ruled out, BNP elevated to1864
   OGT placed and ASA restarted.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-9-12**] 07:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-13**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.5
C (99.5
   HR: 97 (76 - 102) bpm
   BP: 141/70(82) {73/40(37) - 141/76(89)} mmHg
   RR: 22 (0 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  3,315 mL
                                                                    228 mL
   PO:
             TF:
                                                                     88 mL
                                                                    199 mL
   IVF:
                                                                  3,227 mL
                                                                     30 mL
   Blood products:
   Total out:
                                                                  2,155 mL
                                                                    455 mL
   Urine:
                                                                  2,155 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,160 mL
                                                                   -227 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 540) mL
   Vt (Spontaneous): 381 (381 - 381) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 73
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   SpO2: 93%
   ABG: ///23/
   Ve: 9.2 L/min
   Physical Examination
   GEN: Intubated, awake, alert, responding appropriately
   CV: RRR, no M/R/G
   Lungs: Crackles Bilateral throughout lung fields.  Suncutaneous air
   w/crepitus over the chest and shoulders and neck, and in the left face,
   none in the right face.
   Neuro: No focal deficits, moves all 4 extremities.
   Ext: Pedal Pulses 1+.
   Labs / Radiology
   153 K/uL
   10.9 g/dL
   113 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.6 mEq/L
   25 mg/dL
   112 mEq/L
   145 mEq/L
   30.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2138-9-11**]  07:22 PM
                             [**2138-9-12**]  07:00 AM
                             [**2138-9-12**]  08:10 AM
                             [**2138-9-12**]  01:25 PM
                             [**2138-9-13**]  04:46 AM
   WBC
   9.9
   13.2
   6.5
   Hct
   38.8
   38.5
   30.8
   Plt
   232
   282
   153
   Cr
   1.0
   1.1
   0.9
   TropT
   0.04
   0.04
   Glucose
   130
   109
   113
   Other labs: PT / PTT / INR:13.3/35.8/1.1, CK / CKMB /
   Troponin-T:117/6/0.04, Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:2.9
   %, Eos:1.2 %, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   67 y/o F with CAD, COPD and respiratory failure s/p trach wean with
   persistent tracheocutaneous air leak who presented for elective
   takedown of fistula, PACU course complicated by diffuse neck/fall
   swelling [**2-22**] subcutaneous emphysema, admitted to [**Hospital Unit Name 44**] for airway
   monitoring, now with acute respiratory failure.
   .
   #Respiratory Failure:  Unclear etiology, given her history of
   OSA/tracheobroncial malacia and acute onset of presentation while off
   home CPAP, and complaints of upper airway obstruction. it is most
   likely that she had acute obstruction of airway and reactive pulmonary
   edema.  Other etiologies include aspiration or secretions or blood from
   trach site. She has been afebrile and without leukocytosis so pneumonia
   is unlikely.  There may also be a cardiogenic aspect to her respiratory
   status, though Echo showed EF of 60%.
   -Continue intubation for oxygenation.  Wean PEEP to 5 which will
   hopefully allow us to be ready to extubate on Monday.  Maintain O2 Sats
   >90 given patient
s home O2 sats are in this range on 2-3L.
   -Serial CXR
   -Bronchial aspirate for culture
   - Diurese 1L today as long as pressures tolerate
   - ENT recommends keeping intubated for 3 days to allow tract to heal.
   Will extubated under direct visualization.
   #Anemia: Pt with 8 pt hct drop overnight.  Received minimal fluids so
   unlikely dilutional.  All counts cut nearly in half so may be spurious.
   -Repeat stat CBC
   -guiac stools
   -transfuse if <25
   # Neck swelling s/p fistula takedown: Pt has improved facial, neck &
   chest wall swelling due to air leak around tracheal opening and
   tracking subcutaneous emphysema.
   - Codeine 15mg q4hr to prevent cough
   - fentanyl versed gtt
s for  pain/sedation
   - appreciate ENT recs
   - ENT rec keep intubated for 3 days so tract can heal
   .
   # CAD/CHF: Pt with long standing CAD s/p CABG/PCI in [**2133**], EKG
   suggestive of old inferior MI.  No evidence of volume overload on
   admission to the ICU and pt denie any chest pain/jaw pain. Tachycardia
   improved yesterday
   -Echo with EF of 60% and ? Hypokinesis of inferior/lateral wall
   - hold BB given hypotension, and ACE also held.
   - Restarted ASA by OGT
   - Restart lasix for diuresis
   .
   # COPD/Pulm: Pt carries a diagnosis of COPD but uses only albuterol prn
   and no prior PFTs in OMR.  She had been using 2-3L home oxygen.  No
   audible wheezes on exam, but diffuse upper airway congestion.
   - Continue Nebs PRN
   .
   # OSA: Once extubated, will hold on CPAP/BIPAP given ongoing tracheal
   leak with subcutaneous air tracking through chest wall/face/neck
   - supplemental oxygen only
   .
   # Anxiety/Bipolar disorder: Pt anxious due to post-op facial
   swelling/pain with swallowing
   - OG in place, continue Quetiapine 25mg TID with 100mg qhs down tube
   - continue Zoloft 100mg in am - Ativan 0.5mg IV TID prn (hold for
   sedation) down tube
   .
   # FEN: OG tube feeds, careful aspiration precaustions.
   - f/u lytes and replete prn
   .
   # PPx: Pneumoboots (no heparin given HIT history), IV PPI while NPO
   - aggressive bowel regimen
   .
   # Code:  FULL confirmed with patient
   .
   # Dispo:  ICU until patient stable from respiratory standpoint.
   .
   # Comm: with patient and husband [**Name (NI) 2022**] [**Name (NI) **] [**Telephone/Fax (1) 4588**]
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2138-9-12**] 05:28 PM 40 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2138-9-12**] 04:00 AM
   20 Gauge - [**2138-9-12**] 04:03 AM
   Multi Lumen - [**2138-9-12**] 06:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-09-15 10:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2138-9-14**] 05:29 PM
   one set periferal one set CL
 PAN CULTURE - At [**2138-9-15**] 04:00 AM
   bld,urine and sputum
 FEVER - 101.3
F - [**2138-9-15**] 03:00 AM
   Remains off vasopressor.
   Remains intubated, mechanically ventilated.  No cuff leak this AM.
   Complains of pain in area of tracheotomy flap.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-9-13**] 01:52 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-15**] 06:39 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2138-9-14**] 12:23 PM
   Pantoprazole (Protonix) - [**2138-9-14**] 07:53 PM
   Lorazepam (Ativan) - [**2138-9-14**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-25**] Mild
   Pain location: tracheotomy site
   Flowsheet Data as of  [**2138-9-15**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.7
C (99.9
   HR: 81 (80 - 108) bpm
   BP: 117/56(71) {79/34(48) - 133/66(79)} mmHg
   RR: 19 (15 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,239 mL
                                                                    342 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                     98 mL
   IVF:
                                                                    728 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                  2,655 mL
                                                                    475 mL
   Urine:
                                                                  2,655 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -416 mL
                                                                   -133 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 468 (222 - 468) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   RSBI Deferred: Unstable Airway
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 94%
   ABG: ///30/
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   crepitus around tracheotomy incision
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): perosn, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.1 g/dL
   184 K/uL
   131 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.8 mEq/L
   20 mg/dL
   105 mEq/L
   145 mEq/L
   28.9 %
   7.3 K/uL
        [image002.jpg]
                             [**2138-9-11**]  07:22 PM
                             [**2138-9-12**]  07:00 AM
                             [**2138-9-12**]  08:10 AM
                             [**2138-9-12**]  01:25 PM
                             [**2138-9-13**]  04:46 AM
                             [**2138-9-13**]  01:27 PM
                             [**2138-9-13**]  02:10 PM
                             [**2138-9-14**]  04:33 AM
                             [**2138-9-14**]  02:40 PM
                             [**2138-9-15**]  04:00 AM
   WBC
   9.9
   13.2
   6.5
   7.3
   8.1
   7.3
   Hct
   38.8
   38.5
   30.8
   31.4
   31.4
   31.7
   28.9
   Plt
   232
   282
   153
   182
   195
   184
   Cr
   1.0
   1.1
   0.9
   0.8
   0.9
   TropT
   0.04
   0.04
   TCO2
   29
   Glucose
   130
   109
   113
   166
   131
   Other labs: PT / PTT / INR:13.3/35.8/1.1, CK / CKMB /
   Troponin-T:117/6/0.04, Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:2.9
   %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   Upper airway obstruction, respiratory failure.
   RESPIRATORY FAILURE -- not yet ready for extubation.  Good progress
   with ventilator support, but with clinical evidence for persistent
   tracheocutaneous fistula.
   UPPER AIRWAY OBSTRUCTION
 subglottic obstruction, <30%, may be
   contributing to airway distress.  Bypassed with ETT.
   TRACHEOCUTANEOUS FISTULA -- post-op maipulated in context of acute
   resp. distress.  Need to check with ENT to determine whether requires
   revision.  Wound infected.
   SUBCUTANEOUS AIR -- suggests persistent air leak.  Monitor exam.
   BACTEREMIA -- staph coag negative.  Likely related to tracheotomy.
   Continue antimicrobials.
   FLUIDS
 euvolemic.  Monitor I/O.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-9-12**] 06:30 AM
   20 Gauge - [**2138-9-15**] 04:49 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2138-09-16 11:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Increased sputum production, yellow, copious, thick.
   Appears comfortable, awake, interactive, appropriate.
   States she is
scared.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-16**] 06:00 AM
   Vancomycin - [**2138-9-16**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2138-9-15**] 11:00 AM
   Pantoprazole (Protonix) - [**2138-9-15**] 08:00 PM
   Lorazepam (Ativan) - [**2138-9-15**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2138-9-16**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.4
C (99.3
   HR: 72 (71 - 85) bpm
   BP: 102/45(60) {90/42(55) - 119/68(79)} mmHg
   RR: 16 (15 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,726 mL
                                                                    932 mL
   PO:
             TF:
                                                                    548 mL
                                                                    477 mL
   IVF:
                                                                    958 mL
                                                                    455 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    595 mL
   Urine:
                                                                  2,175 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -449 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 464 (400 - 487) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 19 cmH2O
   SpO2: 95%
   ABG: ///30/
   Ve: 9.1 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, year, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.1 g/dL
   189 K/uL
   126 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.8 mEq/L
   20 mg/dL
   103 mEq/L
   142 mEq/L
   28.1 %
   6.7 K/uL
        [image002.jpg]
                             [**2138-9-12**]  07:00 AM
                             [**2138-9-12**]  08:10 AM
                             [**2138-9-12**]  01:25 PM
                             [**2138-9-13**]  04:46 AM
                             [**2138-9-13**]  01:27 PM
                             [**2138-9-13**]  02:10 PM
                             [**2138-9-14**]  04:33 AM
                             [**2138-9-14**]  02:40 PM
                             [**2138-9-15**]  04:00 AM
                             [**2138-9-16**]  03:34 AM
   WBC
   13.2
   6.5
   7.3
   8.1
   7.3
   6.7
   Hct
   38.5
   30.8
   31.4
   31.4
   31.7
   28.9
   28.1
   Plt
   282
   153
   182
   195
   184
   189
   Cr
   1.1
   0.9
   0.8
   0.9
   0.9
   TropT
   0.04
   0.04
   TCO2
   29
   Glucose
   109
   113
   166
   131
   126
   Other labs: PT / PTT / INR:13.3/35.8/1.1, CK / CKMB /
   Troponin-T:117/6/0.04, Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:2.9
   %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   Upper airway obstruction.
   RESPIRATORY FAILURE -- persistent.  Multifactorial, including active
   respiratory tract infection (probable bronchitis), upper airway
   obstruction, COPD, CHF.
   BACTEREMIA -- likely related to tracheal wound, possible respiratory
   tract.  Continue antimicrobials.
   SPUTUM -- increased, suggests tracheobronchitis.  Continue
   antimicrobials.
   CAD -- clinically stable.  Monitor.
   CHF -- clinically stable.  Monitor.
   TRACHEOCUTANEOUS FISTULA
 s/p surgical flap.  Hopefully will see
   continued resolution of subcutaneous air.
   COPD
 good control currently.  Maintain medications.  Monitor RR,
   SaO2.
   ANXIETY / BIPOLAR --  continue psycological support and usual med.
   Reassurance.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-9-16**] 06:27 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-9-12**] 06:30 AM
   20 Gauge - [**2138-9-15**] 04:49 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: Not indicated
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2138-09-17 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Tolerated 1.5 hours of SBT yesterday, then felt subjectively SOB but
   VSS.  RSBI this morning 32.  Currently stable of PEEP 5, Fi02 40%.  On
   Midazolam drip @2.
   Vanco day 5, Zosyn day 3.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-9-16**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-17**] 05:32 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-9-16**] 08:00 PM
   Furosemide (Lasix) - [**2138-9-16**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-17**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.3
   HR: 74 (66 - 105) bpm
   BP: 109/49(65) {77/36(46) - 116/58(70)} mmHg
   RR: 17 (0 - 22) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 68.2 kg (admission): 70.8 kg
   Height: 60 Inch
             Total In:
                                                                  2,397 mL
                                                                    444 mL
   PO:
             TF:
                                                                    935 mL
                                                                    200 mL
   IVF:
                                                                  1,022 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  2,095 mL
                                                                    925 mL
   Urine:
                                                                  2,095 mL
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    302 mL
                                                                   -481 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 502 (407 - 509) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 16 cmH2O
   SpO2: 92%
   ABG: ///33/
   Ve: 8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   211 K/uL
   10.8 g/dL
   114 mg/dL
   1.0 mg/dL
   33 mEq/L
   3.7 mEq/L
   23 mg/dL
   100 mEq/L
   142 mEq/L
   30.2 %
   6.8 K/uL
        [image002.jpg]
                             [**2138-9-12**]  08:10 AM
                             [**2138-9-12**]  01:25 PM
                             [**2138-9-13**]  04:46 AM
                             [**2138-9-13**]  01:27 PM
                             [**2138-9-13**]  02:10 PM
                             [**2138-9-14**]  04:33 AM
                             [**2138-9-14**]  02:40 PM
                             [**2138-9-15**]  04:00 AM
                             [**2138-9-16**]  03:34 AM
                             [**2138-9-17**]  04:09 AM
   WBC
   13.2
   6.5
   7.3
   8.1
   7.3
   6.7
   6.8
   Hct
   38.5
   30.8
   31.4
   31.4
   31.7
   28.9
   28.1
   30.2
   Plt
   282
   153
   182
   195
   184
   189
   211
   Cr
   0.9
   0.8
   0.9
   0.9
   1.0
   TropT
   0.04
   TCO2
   29
   Glucose
   113
   166
   131
   126
   114
   Other labs: PT / PTT / INR:13.3/35.8/1.1, CK / CKMB /
   Troponin-T:117/6/0.04, Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:2.9
   %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   67 y/o F with CAD, COPD and respiratory failure s/p trach wean with
   persistent tracheocutaneous air leak who presented for elective
   takedown of fistula, PACU course complicated by diffuse neck and face
   swelling [**2-22**] subcutaneous emphysema and acute respiratory failure
   requiring intubation.  Improved.
   #Respiratory Failure:  Unclear etiology, given her history of
   OSA/tracheobroncial malacia and acute onset of presentation while off
   home CPAP, and complaints of upper airway obstruction. it is most
   likely that she had acute obstruction of airway and reactive pulmonary
   edema.  Tolerated SBP last night, improving RSBIs.  Awaiting ENT/IP
   recs for extubation.
   - SBT today. Disucss extubation with ENT/IP.
   -Maintain O2 Sats >90 given patient
s home O2 sats are in this range on
   2-3L.
   -Serial CXR
   -No need to diurese today,as BUN is creeping up and patient is net
   negative 2L since admission
   -f/u ENT recs
   #Fever: Afebrile for 24 hour, surveillance blood cultures negative,
   skin around trach site improving. All cultures growing MRSA. Vanco day
   5, Zosyn day 3.
   -Continue Vanco for 8 more days. D/C Zosyn
   -f/u blood cultures, urine cultures and mini-BAL culture sensitivities.
   -If spikes again, would broaden with cefepime.
   #Anemia: Now stable.
   -q24h CBC
    -guiac stools
   -transfuse if <25
   # Neck swelling s/p fistula takedown: Pt has improved subcutaneous
   emphysema.
     -f/u ENT recs. Likely will trial extubation in the OR and if fails,
   may need permanent tracheostomy.
   #Pain: Yesterday, patien put back on PO meds, tolerating well.
   -Continue home vicodin down NG tube
   # CAD/CHF: Pt with long standing CAD s/p CABG/PCI in [**2133**], EKG
   suggestive of old inferior MI.  No evidence of volume overload on
   admission to the ICU and pt denie any chest pain/jaw pain. Tachycardia
   improved yesterday, BNP 1800.
   -Echo with EF of 60% and ? Hypokinesis of inferior/lateral wall
   - ACE  as long as  if HR>60 and SBP >100 after lasix
   - Continue ASA by OGT
   - Hold BB
   -Hold Lasix today as BUN has bumped up.
   # COPD/Pulm: Pt carries a diagnosis of COPD but uses only albuterol prn
   and no prior PFTs in OMR.  She had been using 2-3L home oxygen.  No
   audible wheezes on exam, but diffuse upper airway congestion.
   - Continue Nebs PRN
   # OSA: Once extubated, while hold on CPAP/BIPAP given ongoing tracheal
   leak with subcutaneous air tracking through chest wall/face/neck
    - supplemental oxygen only
   # Anxiety/Bipolar disorder: History of anxiety, bipolar.  Exacerbated
   by anxiety over intubation and possibility of permanent trach.
   - OG in place, continue Quetiapine 25mg TID with 100mg qhs down tube
   - continue Zoloft 100mg in am
   - Ativan 0.5mg  TID prn (hold for sedation) down tube
   # FEN: On tube feeds.  Patient hypernatremia resolved (142)
    -hypernatremia likely [**2-22**] lack of access to free water in setting of
   diuresis.
   - f/u lytes and replete prn
   -f/u nutrition recs
   # PPx: Pneumoboots (no heparin given HIT history), IV PPI while NPO
   - aggressive bowel regimen
    # Code:  FULL confirmed with patient
   # Dispo:  ICU until extubation in OR (on [**Hospital Ward Name 247**]).
   # Comm: with patient and husband [**Name (NI) 2022**] [**Name (NI) **] [**Telephone/Fax (1) 4588**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-9-12**] 06:30 AM
   20 Gauge - [**2138-9-15**] 04:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-09-17 11:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated mechanically ventilated via ETT.
   Tolerated SBT x 1.5 hours yesterday.
   Up in chair while intubated.
   Appears bright, interactive.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-9-16**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-17**] 05:32 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-9-16**] 08:00 PM
   Furosemide (Lasix) - [**2138-9-16**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2138-9-17**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98.1
   HR: 66 (66 - 105) bpm
   BP: 96/49(61) {90/41(55) - 113/54(67)} mmHg
   RR: 15 (0 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.2 kg (admission): 70.8 kg
   Height: 60 Inch
             Total In:
                                                                  2,397 mL
                                                                    496 mL
   PO:
             TF:
                                                                    935 mL
                                                                    200 mL
   IVF:
                                                                  1,022 mL
                                                                    236 mL
   Blood products:
   Total out:
                                                                  2,095 mL
                                                                  1,185 mL
   Urine:
                                                                  2,095 mL
                                                                  1,185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    302 mL
                                                                   -689 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 558 (399 - 558) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: ///33/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.8 g/dL
   211 K/uL
   114 mg/dL
   1.0 mg/dL
   33 mEq/L
   3.7 mEq/L
   23 mg/dL
   100 mEq/L
   142 mEq/L
   30.2 %
   6.8 K/uL
        [image002.jpg]
                             [**2138-9-12**]  08:10 AM
                             [**2138-9-12**]  01:25 PM
                             [**2138-9-13**]  04:46 AM
                             [**2138-9-13**]  01:27 PM
                             [**2138-9-13**]  02:10 PM
                             [**2138-9-14**]  04:33 AM
                             [**2138-9-14**]  02:40 PM
                             [**2138-9-15**]  04:00 AM
                             [**2138-9-16**]  03:34 AM
                             [**2138-9-17**]  04:09 AM
   WBC
   13.2
   6.5
   7.3
   8.1
   7.3
   6.7
   6.8
   Hct
   38.5
   30.8
   31.4
   31.4
   31.7
   28.9
   28.1
   30.2
   Plt
   282
   153
   182
   195
   184
   189
   211
   Cr
   0.9
   0.8
   0.9
   0.9
   1.0
   TropT
   0.04
   TCO2
   29
   Glucose
   113
   166
   131
   126
   114
   Other labs: PT / PTT / INR:13.3/35.8/1.1, CK / CKMB /
   Troponin-T:117/6/0.04, Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:2.9
   %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   Respiratory failure, upper airway obstruction.
   RESPIRATORY FAILURE -- multifactorial.  Upper airway obstruction
   (subglottic stenosis, mild), diffuse tracheobronchomalacia, and likely
   episode of negative pressure pulmonary edema.  Tolerating SBT.  Would
   favor extubation in controlled setting.
   SEPSIS -- likely wound related.  Good response.
   BACTEREMIA -- continue antimicrobials.  Probable related to probing of
   surgical wound at bedside.
   TRACHEOCUTANEOUS FISTULA -- s/p surgical flap.  Slow improvement.
   Evidence for sealing off -- no subcutaneous air.
   FLUIDS -- continue net negative balance.
   NUTRITIONAL SUPPORT --  TF.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2138-9-12**] 06:30 AM
   20 Gauge - [**2138-9-15**] 04:49 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2138-09-18 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   On [**5-26**] overnight, trach cuff deflated, 02sats >90% RSBI this AM 54.
   But increased secretions o/n and o2 sats 86-90 early this AM, put back
   on Fi02 60%.  Given Lasix this AM, suctioned and Fi02 weaned to 40%.
   SBP 86-95 most of the day yesterday, so did not give lasix or ACE.  One
   250 NS bolus.
   ENT and IR have new plan to extubated at the bedside this morning.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-17**] 05:32 AM
   Vancomycin - [**2138-9-17**] 07:44 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-9-17**] 07:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-18**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 72 (66 - 80) bpm
   BP: 100/49(62) {87/40(53) - 107/55(66)} mmHg
   RR: 19 (0 - 21) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 70.8 kg
   Height: 60 Inch
             Total In:
                                                                  1,525 mL
                                                                     77 mL
   PO:
             TF:
                                                                    380 mL
   IVF:
                                                                    785 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  1,692 mL
                                                                    315 mL
   Urine:
                                                                  1,692 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -167 mL
                                                                   -238 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 385 (329 - 677) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 11 cmH2O
   SpO2: 90%
   ABG: ///30/
   Ve: 7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   233 K/uL
   10.1 g/dL
   101 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.9 mEq/L
   21 mg/dL
   104 mEq/L
   142 mEq/L
   28.8 %
   6.4 K/uL
        [image002.jpg]
                             [**2138-9-12**]  01:25 PM
                             [**2138-9-13**]  04:46 AM
                             [**2138-9-13**]  01:27 PM
                             [**2138-9-13**]  02:10 PM
                             [**2138-9-14**]  04:33 AM
                             [**2138-9-14**]  02:40 PM
                             [**2138-9-15**]  04:00 AM
                             [**2138-9-16**]  03:34 AM
                             [**2138-9-17**]  04:09 AM
                             [**2138-9-18**]  03:55 AM
   WBC
   6.5
   7.3
   8.1
   7.3
   6.7
   6.8
   6.4
   Hct
   30.8
   31.4
   31.4
   31.7
   28.9
   28.1
   30.2
   28.8
   Plt
   153
   182
   195
   184
   189
   211
   233
   Cr
   0.9
   0.8
   0.9
   0.9
   1.0
   1.0
   TropT
   0.04
   TCO2
   29
   Glucose
   113
   166
   131
   126
   114
   101
   Other labs: PT / PTT / INR:13.3/35.8/1.1, CK / CKMB /
   Troponin-T:117/6/0.04, Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:2.9
   %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   67 y/o F with CAD, COPD and respiratory failure s/p trach wean with
   persistent tracheocutaneous air leak who presented for elective
   takedown of fistula, PACU course complicated by diffuse neck and face
   swelling [**2-22**] subcutaneous emphysema and acute respiratory failure
   requiring intubation.  Improved.
   #Respiratory Failure:  Unclear etiology, given her history of
   OSA/tracheobroncial malacia and acute onset of presentation while off
   home CPAP, and complaints of upper airway obstruction she most likely
   that had acute obstruction of airway and reactive pulmonary edema.  Has
   tolerated SBTs.  Desats this morning likely [**2-22**] to increased secretions
   in the setting of the cuff down all night, easily weaned back to Fi02
   40%.  Looks clinically stable to extubated, more concerning is the 24
   hours post-extubation given her previous desaturation event.  Would
   like to use CPAP post-extubation to help keep her airways patent
   overnight.
   - Extubation today, bedside, with ENT and IP.
   -Maintain O2 Sats >90 given patient
s home O2 sats are in this range on
   2-3L.
   -Serial CXR
   -Diurese -1L today if SBP stable (with lasix)
   #Fever: Afebrile for 48 hours, surveillance blood cultures negative,
   skin around trach site improving. All cultures growing MRSA. Vanco day
   [**7-1**]
   -Continue Vanco for total 10 day course given positive blood cultures
   and possible VAP.
   -If spikes again, would broaden with cefepime.
   #Anemia: Now stable.
   -q24h CBC
    -guiac stools
   -transfuse if <25
   # Neck swelling s/p fistula takedown: Pt has improved subcutaneous
   emphysema.
    -f/u ENT recs about CPAP use.
   #Pain: Patient put back on PO meds, tolerating well.
   -Continue home vicodin down NG tube.  Once extubated we can bridge her
   with IV pain meds until she is taking PO.
   # CAD/CHF: Pt with long standing CAD s/p CABG/PCI in [**2133**], EKG
   suggestive of old inferior MI.  No evidence of volume overload on
   admission to the ICU and pt denie any chest pain/jaw pain. Tachycardia
   improved yesterday, BNP 1800.
   -Echo with EF of 60% and ? Hypokinesis of inferior/lateral wall
   - ACE this PM (did not receive yesterday) as long as  if HR>60 and SBP
   >100 after lasix
   - Continue ASA by OGT
   - Hold BB
   # COPD/Pulm: Pt carries a diagnosis of COPD but uses only albuterol prn
   and no prior PFTs in OMR.  She had been using 2-3L home oxygen.  No
   audible wheezes on exam, but diffuse upper airway congestion.
   - Continue Nebs PRN
   # OSA: Once extubated, on home CPAP
    - disucuss CPAP use post-exubation with ENT given possibility of
   opening up trach site.
   # Anxiety/Bipolar disorder: History of anxiety, bipolar.  Exacerbated
   by anxiety over intubation and possibility of permanent trach.
   - While OG in place, continue Quetiapine 25mg TID with 100mg qhs down
   tube
   - continue Zoloft 100mg in am
   - Ativan 0.5mg  TID prn (hold for sedation).
   # FEN: On tube feeds.  Will D/C OG when extubated.  Will keep PO at
   least 24 hours.
   - f/u lytes and replete prn
   -f/u nutrition recs
   # PPx: Pneumoboots (no heparin given HIT history), IV PPI while NPO
   - aggressive bowel regimen , had 1x BM yesterday with PR.
    # Code:  FULL confirmed with patient
   # Dispo:  ICU post-extubation for monitoring.
   # Comm: with patient and husband [**Name (NI) 2022**] [**Name (NI) **] [**Telephone/Fax (1) 4588**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-9-12**] 06:30 AM
   20 Gauge - [**2138-9-15**] 04:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-09-18 10:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated via ETT.
   Tolerated IPS= 5 most of day.
   This AM, experienced SaO2 desaturation, requiring increased FiO2 to 60%
   with resolution hypoxemia.  Copius secretions.  ETT cuff deflated
   earlier this AM.  All resolved with suctioning.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-17**] 05:32 AM
   Vancomycin - [**2138-9-18**] 07:46 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-9-17**] 07:45 PM
   Furosemide (Lasix) - [**2138-9-18**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2138-9-18**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98
   HR: 70 (66 - 80) bpm
   BP: 95/43(55) {87/40(53) - 107/55(66)} mmHg
   RR: 19 (0 - 21) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 70.8 kg
   Height: 60 Inch
             Total In:
                                                                  1,525 mL
                                                                    366 mL
   PO:
             TF:
                                                                    380 mL
   IVF:
                                                                    785 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                  1,692 mL
                                                                    475 mL
   Urine:
                                                                  1,692 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -167 mL
                                                                   -109 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 350 (329 - 677) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 6 cmH2O
   SpO2: 87%
   ABG: ///30/
   Ve: 7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.1 g/dL
   233 K/uL
   101 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.9 mEq/L
   21 mg/dL
   104 mEq/L
   142 mEq/L
   28.8 %
   6.4 K/uL
        [image002.jpg]
                             [**2138-9-12**]  01:25 PM
                             [**2138-9-13**]  04:46 AM
                             [**2138-9-13**]  01:27 PM
                             [**2138-9-13**]  02:10 PM
                             [**2138-9-14**]  04:33 AM
                             [**2138-9-14**]  02:40 PM
                             [**2138-9-15**]  04:00 AM
                             [**2138-9-16**]  03:34 AM
                             [**2138-9-17**]  04:09 AM
                             [**2138-9-18**]  03:55 AM
   WBC
   6.5
   7.3
   8.1
   7.3
   6.7
   6.8
   6.4
   Hct
   30.8
   31.4
   31.4
   31.7
   28.9
   28.1
   30.2
   28.8
   Plt
   153
   182
   195
   184
   189
   211
   233
   Cr
   0.9
   0.8
   0.9
   0.9
   1.0
   1.0
   TropT
   0.04
   TCO2
   29
   Glucose
   113
   166
   131
   126
   114
   101
   Other labs: PT / PTT / INR:13.3/35.8/1.1, CK / CKMB /
   Troponin-T:117/6/0.04, Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:2.9
   %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   Upperairway obstruction, post-op hypoxemia.
   RESPIRATORY FAILURE
 Good progress.  Tolerating SBT.  Hope for
   controlled extubation with ENT and anesthesia.
   TRACHEOCUTANEOUS FISTULA -- s/p muscle flap.  Subcutaneous air
   resolved, suggesting tract sealed.
   UPPER AIRWAY OBSTRUCTION -- subglottic stenosis (est. 30%) but without
   cuff leak.
   TRACHEOBRONCOMALACIA -- contributing to underlying dyspnea.
   CHF -- experienced pulmonary edema acutely.  Resolved.
   BACTEREMIA
 continue antimicrobials.
   TRACHEOBRONCHITIS
 continue antimicrobials.
   NUTRITIONAL SUPPORT
 TF on hold.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-9-12**] 06:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2138-09-19 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2138-9-18**] 11:50 AM
   Extubated yesterday and did well.  Used CPAP last night without
   problems.  Rare [**Name2 (NI) 4840**], corrected easily
   Requesting more Ativan for anxiety, states she takes it at home 1mg
   QID.  Given 0.5 mg [**Hospital1 **] and 1 extra dose with good effect
   Allergies:
   Heparin Agents
   Thrombocytopenia
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-17**] 05:32 AM
   Vancomycin - [**2138-9-18**] 08:12 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2138-9-18**] 08:19 AM
   Morphine Sulfate - [**2138-9-18**] 08:10 PM
   Lorazepam (Ativan) - [**2138-9-19**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-19**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 76 (69 - 91) bpm
   BP: 134/64(78) {95/43(55) - 148/85(96)} mmHg
   RR: 21 (16 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 70.8 kg
   Height: 60 Inch
             Total In:
                                                                    802 mL
                                                                     30 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                    652 mL
                                                                     30 mL
   Blood products:
   Total out:
                                                                  1,840 mL
                                                                    389 mL
   Urine:
                                                                  1,840 mL
                                                                    389 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,038 mL
                                                                   -359 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: PSV/SBT
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 350 (350 - 350) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 94%
   ABG: ///32/
   Ve: 7 L/min
   Physical Examination
   GEN- NAD, Aox3
   CV- RRR No M/R/G
   Pulm-
   Abd-
   Extr-
   Labs / Radiology
   275 K/uL
   10.3 g/dL
   84 mg/dL
   0.9 mg/dL
   32 mEq/L
    3.7 mEq/L
   18 mg/dL
   106 mEq/L
   145 mEq/L
   29.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2138-9-13**]  04:46 AM
                             [**2138-9-13**]  01:27 PM
                             [**2138-9-13**]  02:10 PM
                             [**2138-9-14**]  04:33 AM
                             [**2138-9-14**]  02:40 PM
                             [**2138-9-15**]  04:00 AM
                             [**2138-9-16**]  03:34 AM
                             [**2138-9-17**]  04:09 AM
                             [**2138-9-18**]  03:55 AM
                             [**2138-9-19**]  03:26 AM
   WBC
   6.5
   7.3
   8.1
   7.3
   6.7
   6.8
   6.4
   5.7
   Hct
   30.8
   31.4
   31.4
   31.7
   28.9
   28.1
   30.2
   28.8
   29.3
   Plt
   153
   182
   195
   184
   189
   211
   233
   275
   Cr
   0.9
   0.8
   0.9
   0.9
   1.0
   1.0
   0.9
   TCO2
   29
   Glucose
   113
   166
   131
   126
   114
   101
   84
   Other labs: PT / PTT / INR:13.3/35.8/1.1, CK / CKMB /
   Troponin-T:117/6/0.04, Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:2.9
   %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   67 y/o F with CAD, COPD and respiratory failure s/p trach wean with
   persistent tracheocutaneous air leak who presented for elective
   takedown of fistula, PACU course complicated by diffuse neck and face
   swelling [**2-22**] subcutaneous emphysema and acute respiratory failure
   requiring intubation.  Improved.
   #Respiratory Failure:  Unclear etiology, given her history of
   OSA/tracheobroncial malacia and acute onset of presentation while off
   home CPAP, and complaints of upper airway obstruction most likely that
   she had acute obstruction of airway and reactive pulmonary edema.
   Extubated without problems and has kept O2 sats >90 on 2L NC.  Did well
   on CPAP last night also.
   -Maintain O2 Sats >90 given patient
s home O2 sats are in this range on
   2-3L.
   -Serial CXR
   -ADAT
   #MRSA Infection: Afebrile for 3 days, surveillance blood cultures
   negative, skin around trach site improving. All cultures growing MRSA.
   Vanco day [**7-31**]
   -Continue Vanco for total 10 day course given.
   -If spikes again, would broaden with cefepime.
   #Anemia: Now stable.
   -q24h CBC
    -guiac stools
   -transfuse if <25
   # Neck swelling s/p fistula takedown: Pt has improved subcutaneous
   emphysema.
    -Patient did well with CPAP.
   #Pain: Patient put back on PO meds, tolerating well.
   -Continue home vicodin.
   # CAD/CHF: Pt with long standing CAD s/p CABG/PCI in [**2133**], EKG
   suggestive of old inferior MI.  No evidence of volume overload on
   admission to the ICU and pt denie any chest pain/jaw pain.
   -Echo with EF of 60% and ? Hypokinesis of inferior/lateral wall
   - Continue ACE as long as  if HR>60 and SBP >100 after lasix
   - Continue ASA by OGT
   - Hold BB
   # COPD/Pulm: Pt carries a diagnosis of COPD but uses only albuterol prn
   and no prior PFTs in OMR.  She had been using 2-3L home oxygen.
   - Continue Nebs PRN
   # OSA: Extubated, on home CPAP
   # Anxiety/Bipolar disorder: History of anxiety, bipolar.  Exacerbated
   by anxiety over intubation and possibility of permanent trach.
   - While OG in place, continue Quetiapine 25mg TID with 100mg qhs down
   tube
   - continue Zoloft 100mg in am
   - Ativan 0.5mg  TID prn (hold for sedation).
   # FEN: On tube feeds.  Will D/C OG when extubated.  Will keep PO at
   least 24 hours.
   - f/u lytes and replete prn
   -f/u nutrition recs
   # PPx: Pneumoboots (no heparin given HIT history), IV PPI while NPO
   - aggressive bowel regimen , had 1x BM yesterday with PR.
    # Code:  FULL confirmed with patient
   # Dispo:  ICU post-extubation for monitoring.
   # Comm: with patient and husband [**Name (NI) 2022**] [**Name (NI) **] [**Telephone/Fax (1) 4588**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-9-12**] 06:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-09-19 09:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress; sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2138-9-18**] 11:50 AM
   Extubated at bedside yesterday, remains extubated.
   Tolerated CPAP last PM, without worsening of tracheocutaneous fistula.
   States to feel  well this AM, much improved.
   Denies dyspnea, chest pain/jaw pain, abd pain.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-17**] 05:32 AM
   Vancomycin - [**2138-9-19**] 08:09 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2138-9-18**] 08:10 PM
   Lorazepam (Ativan) - [**2138-9-19**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2138-9-19**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 85 (69 - 91) bpm
   BP: 158/69(92) {98/49(62) - 158/85(96)} mmHg
   RR: 13 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 70.8 kg
   Height: 60 Inch
             Total In:
                                                                    802 mL
                                                                    296 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                    652 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  1,840 mL
                                                                    479 mL
   Urine:
                                                                  1,840 mL
                                                                    479 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,038 mL
                                                                   -183 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.3 g/dL
   275 K/uL
   84 mg/dL
   0.9 mg/dL
   32 mEq/L
    3.7 mEq/L
   18 mg/dL
   106 mEq/L
   145 mEq/L
   29.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2138-9-13**]  04:46 AM
                             [**2138-9-13**]  01:27 PM
                             [**2138-9-13**]  02:10 PM
                             [**2138-9-14**]  04:33 AM
                             [**2138-9-14**]  02:40 PM
                             [**2138-9-15**]  04:00 AM
                             [**2138-9-16**]  03:34 AM
                             [**2138-9-17**]  04:09 AM
                             [**2138-9-18**]  03:55 AM
                             [**2138-9-19**]  03:26 AM
   WBC
   6.5
   7.3
   8.1
   7.3
   6.7
   6.8
   6.4
   5.7
   Hct
   30.8
   31.4
   31.4
   31.7
   28.9
   28.1
   30.2
   28.8
   29.3
   Plt
   153
   182
   195
   184
   189
   211
   233
   275
   Cr
   0.9
   0.8
   0.9
   0.9
   1.0
   1.0
   0.9
   TCO2
   29
   Glucose
   113
   166
   131
   126
   114
   101
   84
   Other labs: PT / PTT / INR:13.3/35.8/1.1, CK / CKMB /
   Troponin-T:117/6/0.04, Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:2.9
   %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.2 mg/dL
   Imaging: CXR ([**2138-9-19**]) clear lung fields
   Assessment and Plan
   Upper airway obstruction.
   RESPIRATORY FAILURE -- stable, s/p extubation.  Multifactorial,
   including upper airway obstruction, pulmonary edema, COPD.
   COPD -- resume usual medications.  Home O2 @ 2 L NP
   TRACHEOCUTANEOUS FISTULA -- s/p surgical repair.  Looks intact.
   Tolerated CPAP last PM.
   OBSTRUCTIVE SLEEP APNEA -- continue nocturnal CPAP.
   BACTEREMIA -- related to neck wound.  Continue antimicrobials.
   BRONCHITIS -- complete course of antimicrobials.
   FLUIDS -- continue net diuresis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-9-12**] 06:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2138-09-20 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Tolerated home Bipap machine, sats remained >88%.
   Restarted BB yesterday and Diuresis w/lasix, BP tolerated.
   Per ENT, D/C home today.
   Day 8 of Vanco.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-9-19**] 08:03 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2138-9-19**] 12:00 PM
   Lorazepam (Ativan) - [**2138-9-19**] 03:38 PM
   Metoprolol - [**2138-9-19**] 08:03 PM
   Pantoprazole (Protonix) - [**2138-9-19**] 08:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-20**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 84 (71 - 89) bpm
   BP: 120/66(81) {98/45(57) - 172/120(127)} mmHg
   RR: 17 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 70.8 kg
   Height: 60 Inch
             Total In:
                                                                    680 mL
                                                                     68 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                    650 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  1,969 mL
                                                                    300 mL
   Urine:
                                                                  1,969 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,289 mL
                                                                   -232 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   239 K/uL
   11.4 g/dL
   110 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.8 mEq/L
   16 mg/dL
   105 mEq/L
   141 mEq/L
   33.1 %
   6.9 K/uL
        [image002.jpg]
                             [**2138-9-13**]  01:27 PM
                             [**2138-9-13**]  02:10 PM
                             [**2138-9-14**]  04:33 AM
                             [**2138-9-14**]  02:40 PM
                             [**2138-9-15**]  04:00 AM
                             [**2138-9-16**]  03:34 AM
                             [**2138-9-17**]  04:09 AM
                             [**2138-9-18**]  03:55 AM
                             [**2138-9-19**]  03:26 AM
                             [**2138-9-20**]  03:18 AM
   WBC
   7.3
   8.1
   7.3
   6.7
   6.8
   6.4
   5.7
   6.9
   Hct
   31.4
   31.4
   31.7
   28.9
   28.1
   30.2
   28.8
   29.3
   33.1
   Plt
   182
   195
   184
   189
   [**Telephone/Fax (2) 4882**]39
   Cr
   0.8
   0.9
   0.9
   1.0
   1.0
   0.9
   0.9
   TCO2
   29
   Glucose
   166
   131
   126
   114
   101
   84
   110
   Other labs: PT / PTT / INR:13.3/35.8/1.1, CK / CKMB /
   Troponin-T:117/6/0.04, Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:2.9
   %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   67 y/o F with CAD, COPD and respiratory failure s/p trach wean with
   persistent tracheocutaneous air leak who presented for elective
   takedown of fistula, PACU course complicated by diffuse neck and face
   swelling [**2-22**] subcutaneous emphysema and acute respiratory failure
   requiring intubation.  Now extubated, doing well on home Bipap.
   #Respiratory Failure:  Unclear etiology, given her history of
   OSA/tracheobroncial malacia and acute onset of presentation while off
   home CPAP, and complaints of upper airway obstruction most likely that
   she had acute obstruction of airway and reactive pulmonary edema.
   Extubated without problems and has kept O2 sats >90 on 2L NC.  Did well
   on CPAP last night also.
   -Maintain O2 Sats >90 given patient
s home O2 sats are in this range on
   2-3L.
   -CXR much improved, no pulm edema
   -ADAT
   #MRSA Infection: Afebrile for 3 days, surveillance blood cultures
   negative, skin around trach site improving. All cultures growing MRSA.
   Vanco day 8.
   -D/C Vanco today.
   #Anemia: Now stable.
   -q24h CBC
   # Neck swelling s/p fistula takedown: Pt has improved subcutaneous
   emphysema.
    -Patient did well with CPAP.
   #Pain: Patient put back on PO meds, tolerating well.
   -Continue home vicodin.
   # CAD/CHF: Pt with long standing CAD s/p CABG/PCI in [**2133**], EKG
   suggestive of old inferior MI.  No evidence of volume overload on
   admission to the ICU and pt denie any chest pain/jaw pain.
   -Echo with EF of 60% and ? Hypokinesis of inferior/lateral wall
   - Continue ACE
   - Continue ASA
   - Continue home Lasix, KCl, and BB
   # COPD/Pulm: Pt carries a diagnosis of COPD but uses only albuterol prn
   and no prior PFTs in OMR.  She had been using 2-3L home oxygen.
   - Continue Nebs PRN
   # OSA: Extubated, on home CPAP
   # Anxiety/Bipolar disorder: History of anxiety, bipolar.  Exacerbated
   by anxiety over intubation and possibility of permanent trach.
   - continue Quetiapine 25mg TID with 100mg qhs
   - continue Zoloft 100mg in am
   - Ativan 0.5mg  TID prn (hold for sedation).
   # FEN: ADAT.
   - f/u lytes and replete prn
   # PPx: Pneumoboots (no heparin given HIT history), bowel regimen, OOB
   today
    # Code:  FULL confirmed with patient
   # Dispo:  If stable, D/C home (discuss with ENT)
   # Comm: with patient and husband [**Name (NI) 2022**] [**Name (NI) **] [**Telephone/Fax (1) 4588**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-9-12**] 06:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-09-20 11:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 year old f with CAD, OSA, HIT
   Complicated course after hip replacement
   Trach [**4-29**] dc'd [**Month (only) 591**] but dev.tracheocut fistula- admitted for flap
   Post-op with SQ emphysema- resolved but developed acute resp failure
   likely due to OSA, flash pulm edema: re-intubated 8 days ago.
   Intubated for airway - extubated 2 days ago
   24 Hour Events:
                  History obtained from [**Hospital 85**] Medical records, ICU housestaff
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-9-20**] 08:09 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2138-9-19**] 12:00 PM
   Lorazepam (Ativan) - [**2138-9-19**] 03:38 PM
   Metoprolol - [**2138-9-19**] 08:03 PM
   Pantoprazole (Protonix) - [**2138-9-19**] 08:04 PM
   Other medications:
   Pantoproazle, zoloft, lamictal, seroquel, simvastatin, nystatin s/s,
   lisinopril, lasix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-20**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 94 (71 - 94) bpm
   BP: 127/53(70) {98/45(57) - 172/120(127)} mmHg
   RR: 12 (12 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 70.8 kg
   Height: 60 Inch
             Total In:
                                                                    680 mL
                                                                    722 mL
   PO:
                                                                     30 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    650 mL
                                                                    362 mL
   Blood products:
   Total out:
                                                                  1,969 mL
                                                                    550 mL
   Urine:
                                                                  1,969 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,289 mL
                                                                    172 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal), (S2:
   Normal), No(t) S3, No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , No(t) Wheezes : , No(t) Diminished: ,
   No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.4 g/dL
   239 K/uL
   110 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.8 mEq/L
   16 mg/dL
   105 mEq/L
   141 mEq/L
   33.1 %
   6.9 K/uL
        [image002.jpg]
                             [**2138-9-13**]  01:27 PM
                             [**2138-9-13**]  02:10 PM
                             [**2138-9-14**]  04:33 AM
                             [**2138-9-14**]  02:40 PM
                             [**2138-9-15**]  04:00 AM
                             [**2138-9-16**]  03:34 AM
                             [**2138-9-17**]  04:09 AM
                             [**2138-9-18**]  03:55 AM
                             [**2138-9-19**]  03:26 AM
                             [**2138-9-20**]  03:18 AM
   WBC
   7.3
   8.1
   7.3
   6.7
   6.8
   6.4
   5.7
   6.9
   Hct
   31.4
   31.4
   31.7
   28.9
   28.1
   30.2
   28.8
   29.3
   33.1
   Plt
   182
   195
   184
   189
   [**Telephone/Fax (2) 4882**]39
   Cr
   0.8
   0.9
   0.9
   1.0
   1.0
   0.9
   0.9
   TCO2
   29
   Glucose
   166
   131
   126
   114
   101
   84
   110
   Other labs: PT / PTT / INR:13.3/35.8/1.1, CK / CKMB /
   Troponin-T:117/6/0.04, Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:2.9
   %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   67 year old female with OSA, HTN, CAD, subglottic stenosis
   s/p TC fistula repair complicated by acute resp failure from pulm
   edema/OSA
   Now extubated x 2 days
   Discharge today
   Complete course of Vanco today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2138-9-12**] 06:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: